US06552069B1
Lithium chloride (985 mg, 23.24 mmol) and water (0.21 ml, 11.62 mmol) were added to a solution of diethyl 2-(6-heptenyl)-2-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)malonate (6.0 g, 11.62 mmol) in dimethyl sulfoxide (40 ml) followed by stirring for 12 hours at a temperature of 160° C. to 180° C. After the reaction was completed, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/40→1/30) to give ethyl 2-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)-8-nonenoate (2.3 g, Yield 44%) as a colorless oil.

reactant | Lithium chloride | 23.24 mmol, 985 mg | [Cl-].[Li+]
reactant | water | 11.62 mmol, 0.21 ml | O | H2O
reactant | diethyl 2-(6-heptenyl)-2-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)malonate | 11.62 mmol, 6.0 g | C(CCCCC=C)C(C(=O)OCC)(C(=O)OCC)CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C21H29F9O4
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | ethyl 2-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)-8-nonenoate | 2.3 g, Yield 44% | FC(CCCC(C(=O)OCC)CCCCCC=C)(C(C(C(F)(F)F)(F)F)(F)F)F | C18H25F9O2
